US06506747B1
To a stirred solution of 2-chloro-6-methylbenzonitrile (1 g, 6.6 mmol) in THF (15 mL) under argon at 0° C. a solution of DIBAL (1 M in THF, 7 mL, 7 mmol) was added dropwise over 5 minutes. After 3 hr at 0° C., the reaction mixture was brought to room temperature and further stirred overnight. The reaction mixture was quenched with 5% sulfuric acid at 0° C., extracted with ether, washed with brine and dried (MgSO4). Concentration provided 2-chloro-6-methylbenzaldehyde (0.92 g) which was used without further purification.

reactant | 2-chloro-6-methylbenzonitrile | 6.6 mmol, 1 g | ClC1=C(C#N)C(=CC=C1)C | C8H6ClN
reactant | DIBAL | 7 mmol, 1 M, 7 mL | CC(C)C[AlH]CC(C)C
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-chloro-6-methylbenzaldehyde | 0.92 g | ClC1=C(C=O)C(=CC=C1)C | C8H7ClO
